US07601726B2
6-(2,4-Difluoro-phenoxy)-4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole (0.905 g, 1.79 mmol) was dissolved in 20 mL of MeOH. Water (12 mL) and concentrated HCl (12 mL) were added, and the reaction mixture was sealed and heated to 90° C. for 30 minutes. The reaction mixture was cooled and concentrated under reduced pressure, and the residue was taken up in MeOH, made pH neutral by dropwise addition of aqueous NH4OH solution, and concentrated to dryness under reduced pressure. The residue was chromatographed through silica (0%-1 0% EtOAc in hexanes) to give 0.522 g of 3-[6-(2,4-difluoro-phenoxy)-1H-indazol-4-yloxy]-propane-1,2-diol, MS(M+H)=337.

reactant | 6-(2,4-Difluoro-phenoxy)-4-(2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-indazole | 1.79 mmol, 0.905 g | FC1=C(OC2=CC(=C3C=NN(C3=C2)COCC[Si](C)(C)C)OCC2OC(OC2)(C)C)C=CC(=C1)F | C25H32F2N2O5Si
reactant | Water | 12 mL | O | H2O
reactant | HCl | 12 mL | Cl | ClH
solvent | MeOH | 20 mL | CO | CH4O
product | 3-[6-(2,4-difluoro-phenoxy)-1H-indazol-4-yloxy]-propane-1,2-diol | 0.522 g | FC1=C(OC2=CC(=C3C=NNC3=C2)OCC(CO)O)C=CC(=C1)F | C16H14F2N2O4
